US05849757
1-tert-Butoxycarbonylaminocyclobutanecarboxylic acid
A 64.28 g (264 mmol) portion of ethyl 1-tert-butoxycarbonylaminocyclobutanecarboxylate was dissolved in 400 ml of methanol, mixed with 400 ml of 1N sodium hydroxide aqueous solution and then stirred overnight at room temperature. After evaporation of the solvent, the resulting residue was mixed with 20% citric acid aqueous solution-chloroform. The resulting organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to yield 55.29 g (97%) of the title compound.

reactant | ethyl 1-tert-butoxycarbonylaminocyclobutanecarboxylate | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)OCC | C12H21NO4
reactant | sodium hydroxide | 1N, 400 ml | [OH-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 1-tert-Butoxycarbonylaminocyclobutanecarboxylic acid | 55.29 g, 97% | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
